US04966901
3-(1-(2-Acetylaminoethyl)-2,5-dimethylpyrrol-3-yl)-2-propenaldehyde
16.2 g (0.09 mol) of 1-(2-acetylaminoethyl)-2,5-dimethylpyrrole and 10 g (0.1 mol) of 3-dimethylaminoacrolein are dissolved in 80 ml of 1,2-dichloroethane. 9 ml (0.098 mol) of phosphorus oxychloride are added dropwise at -10° C. After 20 minutes, 41 g (0.5 mol) of sodium acetate in 150 ml of water are added, the mixture is stirred at room temperature for 18 hours and heated at 70° C. for 2 hours, the phases are separated, the organic phase is chromatographed over a silica gel column and the product is recrystallized from isopropanol.

reactant | 1-(2-acetylaminoethyl)-2,5-dimethylpyrrole | 0.09 mol, 16.2 g | C(C)(=O)NCCN1C(=CC=C1C)C | C10H16N2O
reactant | 3-dimethylaminoacrolein | 0.1 mol, 10 g | CN(C=CC=O)C | C5H9NO
reactant | phosphorus oxychloride | 0.098 mol, 9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium acetate | 0.5 mol, 41 g | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
solvent | water | 150 ml | O | H2O
product | 3-(1-(2-Acetylaminoethyl)-2,5-dimethylpyrrol-3-yl)-2-propenaldehyde | C(C)(=O)NCCN1C(=C(C=C1C)C=CC=O)C | C13H18N2O2
